US04613607
1-(4-QUINOLYL)-3-(4-PIPERIDYL)-1-PROPANOL (racemic)
2 g of sodium borohydride were added in 20 minutes, at the ambient temperature, to 13 g of 1-(4-quinolyl)-3-(4-piperidyl)-1-propanone in 200 ml of methanol. After reacting for 2 hours at the ambient temperature, the reaction medium was acidified by addition of an aqueous solution of hydrochloric acid, the methanol removed by distillation under reduced pressure and the aqueous phase washed with ethyl acetate. The aqueous phase was made alkaline by addition of an aqueous solution of sodium hydroxide, then extracted with chloroform. The chloroformic phase was washed with water, dried over magnesium sulfate and evaporated under reduced pressure. 13 g of crude product were thus obtained, which were fixed on a column of silica gel. It was then eluted with a mixture of 90 parts by volume of chloroform and 10 parts by volume of diethylamine. 7 g of the desired product were thus isolated in the form of the base, which was converted into dihydrochloride by the action of hydrochloric acid in ethanol. 3.2 g of 1 -(4-quinolyl)-3-(4-piperidyl)-1-propanol dihydrochloride (racemic) which melted at 195° C. were thus obtained.

reactant | sodium borohydride | 2 g | [BH4-].[Na+]
reactant | 1-(4-quinolyl)-3-(4-piperidyl)-1-propanone | 13 g | N1=CC=C(C2=CC=CC=C12)C(CCC1CCNCC1)=O | C17H20N2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 1-(4-QUINOLYL)-3-(4-PIPERIDYL)-1-PROPANOL | 7 g | N1=CC=C(C2=CC=CC=C12)C(CCC1CCNCC1)O | C17H22N2O
